US06713482B2
(E)-5-Isopropoxy-1-(2-pyridyl)-2-styryl-1H-benzimidazole oxalate
According to a literature procedure (Sala, T.; Sargent, M. V. J. Chem. Soc. Perkin Trans. I. 1979, 2593.), to a solution of (E)-5-hydroxy-1-(2-pyridyl)-2-styryl-1H-benzimidazole (63.8 mg, 0.2 mmol) in N,N-dimethylformamide (2 ml), potassium carbonate (140 mg, 1.0 mmol) and 2-bromopropane (0.2 ml, 2.0 mmol) was added at room temperature. This resulting mixture was stirred at room temperature for 19 h. To this mixture, ice-cold water (10 ml) was added and the whole was extracted with ethyl acetate and n-hexane (1:1, 2×20 ml). Combined organic layer was washed with water (2×20 ml), brine (20 ml), dried (magnesium sulfate) and filtered. The filtrate was concentrated and the residue was purified by column chromatography (silica gel, 10 g; n-hexane/ethyl acetate (5/1) to afford the desired compound (9.3 mg, 13%); 1H-NMR (CDCl3) δ: 8.78-8.75 (1H, m), 8.01-7.79 (2H, m), 7.54-7.22 (8H, m), 7.14 (1H, d, J=16.11 Hz), 6.99-6.87 (2H, m), 4.65-4.55 (1H, m), 1.39 (6H, d, J=5.9 Hz). The free base and oxalic acid were dissolved into ethyl acetate. Concentration and recrystallization from ethyl acetate/n-hexane yielded the titled compound. MW: 445.48; mp: 165.0-166.0° C.

reactant | (E)-5-hydroxy-1-(2-pyridyl)-2-styryl-1H-benzimidazole | 0.2 mmol, 63.8 mg | OC1=CC2=C(N(C(=N2)\C=C\C2=CC=CC=C2)C2=NC=CC=C2)C=C1 | C20H15N3O
reactant | potassium carbonate | 1.0 mmol, 140 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromopropane | 2.0 mmol, 0.2 ml | BrC(C)C | C3H7Br
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (E)-5-Isopropoxy-1-(2-pyridyl)-2-styryl-1H-benzimidazole oxalate | 9.3 mg, 13% | C(C(=O)O)(=O)O.C(C)(C)OC1=CC2=C(N(C(=N2)\C=C\C2=CC=CC=C2)C2=NC=CC=C2)C=C1 | InChI=1S/C23H21N3O.C2H2O4/c1-17(2)27-19-12-13-21-20(16-19)25-23(14-11-18-8-4-3-5-9-18)26(21)22-10-6-7-15-24-22;3-1(4)2(5)6/h3-17H,1-2H3;(H,3,4)(H,5,6)/b14-11+;
